US07635715B2
A mixture of ethyl 8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate (0.320 g, 0.803 mmol), glycine tert-butyl ester hydrochloride (0.175 g, 1.04 mmol), DIEA (0.280 mL, 1.61 mmol), and 1,4-dioxane (12 mL) were heated at 120° C. for 2 hours in a sealed vessel. The mixture was diluted with water (50 mL) and extracted with DCM (2×50 mL). The combined organic layers were washed with water (30 mL) and then with brine (50 mL), dried over MgSO4, and concentrated and dried in vacuo. The residue was purified by flash column chromatography (silica, 0-50% DCM in hexane) to give 1,1-dimethylethyl N-((8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (0.214 g). MS m/e=378 (M−H)−.

reactant | ethyl 8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-carboxylate | 0.803 mmol, 0.320 g | ClC=1C=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)OCC)O | C15H15ClO4
reactant | glycine tert-butyl ester hydrochloride | 1.04 mmol, 0.175 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | DIEA | 1.61 mmol, 0.280 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 1,1-dimethylethyl N-((8-chloro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.214 g | ClC=1C=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C19H22ClNO5
